US04145347
From 9.26 g. of ethyl 2-methyl-5-oxo-1-pyrrolidineacetate (British Pat. No. 1,309,692) and 8.6 g. of cis-2-(2,6-dimethyl-1-piperidinyl)ethylamine, following the procedure of Example 9, there is obtained cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl]-2-methyl-5-oxo-1-pyrrolidineacetamide; m.p. 115°-116° C. after crystallization from cyclohexane.

reactant | ethyl 2-methyl-5-oxo-1-pyrrolidineacetate | CC1N(C(CC1)=O)CC(=O)OCC | C9H15NO3
reactant | cis-2-(2,6-dimethyl-1-piperidinyl)ethylamine | C[C@@H]1N([C@@H](CCC1)C)CCN | C9H20N2
product | cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl]-2-methyl-5-oxo-1-pyrrolidineacetamide | C[C@@H]1N([C@@H](CCC1)C)CCNC(CN1C(CCC1=O)C)=O | C16H29N3O2
